US09303020B2
To a solution of N-(2-aminoethyl)-2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-carboxamide (1.2 g, 2.99 mmol) in toluene (75 mL) at room temperature under nitrogen was added POCl3 (2.79 mL, 29.9 mmol). The reaction mixture was heated to 100° C. and maintained at same temperature overnight. The reaction mixture was concentrated completely under vacuum, and the residue diluted with water, basified with NaHCO3. The product was extracted with EtOAc (100 mL×3), washed with brine, dried over Na2SO4 and concentrated to obtain 2-(2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-yl)-4,5-dihydro-1H-imidazole as a yellow solid. Yield: 1.0 g (87%). LCMS: (ES+) m/z=384.28 (M+H)+; Column—ACQUITY UPLC BEH C8 (50×2.1 mm; 1.7 nm); M phase A: 5 mM Ammonium Acetate:MeCN (95:5); M phase B: 5 mM Ammonium Acetate:MeCN (5:95)

reactant | N-(2-aminoethyl)-2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-carboxamide | 2.99 mmol, 1.2 g | NCCNC(=O)C1=C(OC2=C1C=C(C(=C2)[N+](=O)[O-])OC(C)C)C2=CC=C(C=C2)F | C20H20FN3O5
reactant | POCl3 | 29.9 mmol, 2.79 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-yl)-4,5-dihydro-1H-imidazole | FC1=CC=C(C=C1)C=1OC2=C(C1C=1NCCN1)C=C(C(=C2)[N+](=O)[O-])OC(C)C | C20H18FN3O4
